reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](=[O:2])([C:3]1([H:8])[C:4]([H:9])([H:10])[O:5][C:6]1([H:11])[H:12])[H:7]>>[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12],82.7622779297238
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]([O+:6]=[C-:5][H:13])([H:12])[C:7]1([H:14])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8],35.06369644374909
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]1([H:10])[C:5]([O:4][H:11])=[N:6]1)([H:8])[H:9])[H:7],91.43178393235979
[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],11.441586445020988
[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C@:2]2([O:3][H:11])[C@@:4]1([H:12])[O:5][C@@:6]2([O:7][H:8])[H:13],80.7404269126645
[C:1]([C:2](=[O:3])[N:4]([C-:5]=[N+:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],56.2675074293181
[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[C:4]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:11])[H:14],68.3898229417183
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])[H:9].[C:3]([H:10])([H:12])([H:13])[H:14],110.16167469946699
[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7]>>[O:1](/[C:2](=[N:3]/[C:4]([C:5]#[N:6])([H:9])[H:10])[H:7])[H:8],44.832088525176296
[C:1](=[O+:2][C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]=[N-:6])([H:7])[H:9].[H:8][H:10]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],6.186111582283388
[C:1](/[N:2]=[C:3](/[C:4]([H:12])([H:13])[H:14])[H:11])([H:7])([H:8])[H:9].[C:5]=[N:6][H:10]>>[C:1]([N:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9],25.5069717682787
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[C:2](=[C:3]([C:6]#[N:7])[H:11])([H:9])[H:10].[O:1]([C:4]#[C:5][H:12])[H:8],84.6586242436688
[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([N:4]([H:13])[H:14])=[C:5]=[N:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],86.77623165303619
[C:1]([H:7])([H:8])([H:9])[H:10].[N:2](=[C:3]=[O:4])[C:5](=[O:6])[H:11]>>[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],92.41280832530632
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],57.53336287979339
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:7])([H:8])[H:9].[C:5]=[N:6][H:13],54.440442812613
[C:1](/[C:2](=[C:4](/[C:3]([H:10])([H:11])[H:12])[C:5][H:13])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]#[C:5][H:13])[H:9])([H:6])([H:7])[H:8],35.68857526018231
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([N+:7]#[C-:6])[H:12])[H:11])([H:8])([H:9])[H:10],47.72773834633221
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[N:1](=[C:2]1\[O:3][C:4](=[O:5])[O:7][C:6]1([H:9])[H:10])\[H:8],74.98043879337901
[N:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:10])[H:9])([H:7])[H:8]>>[C-:5]#[O+:6].[N:1]([C+:2]([O:3][H:10])[N-:4][H:9])([H:7])[H:8],43.930035420577404
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[O:1]1[C@@:2]2([H:9])[C:3]([H:10])([H:11])[C@@:4]12[H:12].[O:5]=[C:6]([O:7][H:8])[H:13],74.38716323840241
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]=[C:3]([C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])[H:10])([H:8])[H:9],83.9015007275249
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C-:1]([N:2]([C+:3]([O:4][H:8])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])[H:9],77.7477095810838
[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]([O-:4])=[C+:5][N:6]1[H:7],86.7926331742194
[O:1]([C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5]>>[O:1]([C:2]([C:4](=[C:3])[H:8])([H:6])[H:7])[H:5],53.9108646209801
[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:11])[H:12])[H:10])([H:7])[H:8].[O:6]([H:9])[H:13]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],54.33844531017256
